US07427616B2
5-Tributylstannyl-4-iodo-1-methyl-1H-imidazole
4,5-Diiodo-1-methyl-1H-imidazole (40.0 g) was stirred in anhydrous THF (560 mL) at ambient temperature and ethylmagnesium bromide (3M in ether, 42.0 mL) was added over 20 minutes under an inert atmosphere. The resulting white precipitate was stirred for 30 minutes then tributyltin chloride (34.2 mL) added dropwise. The resulting clear solution was stirred for 1 hr, then saturated aqueous NH4Cl (50 mL) and water (300 mL) were added. The reaction mixture was extracted with DCM (500 mL), washed with water (3×300 mL), dried (MgSO4), filtered and concentrated in vacuo. The crude product was purified by flash chromatography on silica eluting with hexane:EtOAc (1:1) to afford the title compound as a colourless oil (45.1 g, 76%);

reactant | 4,5-Diiodo-1-methyl-1H-imidazole | 40.0 g | IC=1N=CN(C1I)C | C4H4I2N2
reactant | ethylmagnesium bromide | 3M, 42.0 mL | C(C)[Mg]Br
reactant | tributyltin chloride | 34.2 mL | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
solvent | THF | 560 mL | C1CCOC1 | C4H8O
solvent | water | 300 mL | O | H2O
product | 5-Tributylstannyl-4-iodo-1-methyl-1H-imidazole | 45.1 g, 76% | C(CCC)[Sn](C1=C(N=CN1C)I)(CCCC)CCCC | InChI=1S/C4H4IN2.3C4H9.Sn/c1-7-2-4(5)6-3-7;3*1-3-4-2;/h3H,1H3;3*1,3-4H2,2H3;
